* source SCHEMATIC_PSPICE
R_R9         N74325 N74079  22k TC=0,0 
R_R1         N74183 N74079  680 TC=0,0 
V_V3         N74189 0 3Vdc
R_Rl2         N74867 0  330 TC=0,0 
R_R2         N74065 N74079  3.3k TC=0,0 
R_Rl1         N74867 N74623  470 TC=0,0 
C_C4         N74325 N74319  4.7u  TC=0,0 
V_V1         N75011 0  AC 30mV
+SIN 0 30mV 3kHz 0 0 0
R_R6         N74319 N74079  2k TC=0,0 
R_R4         N74847 N74585  1k TC=0,0 
C_C6         N74505 N74623  4.7u  TC=0,0 
C_C2         N74585 N74847  4.7u  TC=0,0 
R_R7         N74499 N74079  10k TC=0,0 
R_Rg2         N75011 N74833  10 TC=0,0 
C_C1         N74065 N74553  4.7u  TC=0,0 
R_R3         0 N74065  1k TC=0,0 
R_R8         0 N74499  10k TC=0,0 
R_R12         0 N74505  1k TC=0,0 
Q_Q3         N74079 N74325 N74505 BC817-25 
D_D1         N74065 N74189 D1N4148_1 
R_R5         0 N74847  33 TC=0,0 
R_R10         N74855 N74325  10k TC=0,0 
C_C5         N74079 N74325  5.6n  TC=0,0 
C_C3         N74499 0  4.7u  TC=0,0 
R_Rg1         N74833 N74553  51 TC=0,0 
Q_Q1         N74435 N74065 N74585 BC817-25 
V_V2         N74079 0 13Vdc
R_R11         0 N74855  1k TC=0,0 
Q_Q2         N74319 N74499 N74435 BC817-25 
D_D2         N74183 0 SMLS14BET 
